US08809339B2
To tert-butyl 3-(2-(2-(2-hydroxyethoxy)ethoxy)ethoxy)propanoate (10 g, 35.97 mmol, 1.00 equiv) in pyridine (40 mL) was added 4-methylbenzene-1-sulfonyl chloride (6.8 g, 35.79 mmol, 1.00 equiv), in portions at 0° C. The resulting solution was stirred for 4 h at 0° C. and then concentrated under vacuum. The residue was dissolved in 30 mL of dichloromethane, washed with 3×20 mL of 3% hydrochloric acid (aq) and 20 mL of brine, and then dried over sodium sulfate. The solution was concentrated under vacuum to afford 14 g (90%) of tert-butyl 3-(2-(2-(2-(tosyloxy)ethoxy)ethoxy)ethoxy)propanoate as a yellow oil.

reactant | tert-butyl 3-(2-(2-(2-hydroxyethoxy)ethoxy)ethoxy)propanoate | 35.97 mmol, 10 g, 1.00 equiv | OCCOCCOCCOCCC(=O)OC(C)(C)C | C13H26O6
reactant | 4-methylbenzene-1-sulfonyl chloride | 35.79 mmol, 6.8 g, 1.00 equiv | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 3-(2-(2-(2-(tosyloxy)ethoxy)ethoxy)ethoxy)propanoate | 14 g, 90% | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCC(=O)OC(C)(C)C | C20H32O8S
